US07842688B2
b) Benzyl 3-(1H-indol-2-ylmethoxy)-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate
The solution of 0.160 g of benzyl 3-(1-methanesulphonyl-1H-indol-2-ylmethoxy)-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate in 11 ml of tetrahydrofuran is admixed with 0.44 ml of tetrabutylammonium fluoride solution (1M in tetrahydrofuran) and stirred at reflux over 20 hours. The reaction mixture is cooled, poured onto brine (40 ml) and extracted with ethyl acetate (2×40 ml). The organic phases are washed with brine (1×40 ml), dried over sodium sulphate, filtered and concentrated by evaporation. The title compound is obtained as an orange oil from the residue by means of flash chromatography (SiO2 60F). Rf=0.18 (1:2 EtOAc-heptane); Rt=26.90 (II).

reactant | benzyl 3-(1-methanesulphonyl-1H-indol-2-ylmethoxy)-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | 0.160 g | CS(=O)(=O)N1C(=CC2=CC=CC=C12)COC1CN(CCC1C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)C(=O)OCC1=CC=CC=C1 | C40H44N2O8S
reactant | tetrabutylammonium fluoride | 1M, 0.44 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 11 ml | O1CCCC1 | C4H8O
product | Benzyl 3-(1H-indol-2-ylmethoxy)-4-{4-[3-(2-methoxybenzyloxy)propoxy]phenyl}piperidine-1-carboxylate | N1C(=CC2=CC=CC=C12)COC1CN(CCC1C1=CC=C(C=C1)OCCCOCC1=C(C=CC=C1)OC)C(=O)OCC1=CC=CC=C1 | C39H42N2O6
